US07456169B2
tert-butyl 2-(4-chloro-2-methoxybenzoyl)hydrazinecarboxylate
A solution of 4-chloro-2-methoxybenzoic acid (4.3 g, 23.1 mmol), tert-butyl carbazate (3.5 g, 26.5 mmol), EDCI.HCl (5.0 g, 26.1 mmol), and triethylamine (3.5 mL, 2.6 g, 25.3 mmol) in CH2Cl2 (50 mL) was stirred at room temperature overnight. The next day the reaction was diluted with EtOAc (200 mL), then washed with IM H3PO4, saturated NaHCO3, and brine. The organic layer was dried (Na2SO4), filtered, and concentrated under vacuum, giving the product (6.0 g, 87%). MS (DCI) m/e 301 & 303 (M+H)+, 318 & 320 (M+NH4)+; 1H NMR (300 MHz, CDCl3) δ 9.40 (br s, 1H), 8.15 (d, J=8.2 Hz, 1H), 7.08 (dd, J=8.2, 1.7 Hz, 1H), 6.98 (d, J=1.7 Hz, 1H), 6.67 (v br s, 1H), 4.00 (s, 3H), 1.50 (s, 9H).

reactant | 4-chloro-2-methoxybenzoic acid | 23.1 mmol, 4.3 g | ClC1=CC(=C(C(=O)O)C=C1)OC | C8H7ClO3
reactant | tert-butyl carbazate | 26.5 mmol, 3.5 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | EDCI.HCl | 26.1 mmol, 5.0 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 25.3 mmol, 3.5 mL, 2.6 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(4-chloro-2-methoxybenzoyl)hydrazinecarboxylate | 6.0 g, 87% | ClC1=CC(=C(C(=O)NNC(=O)OC(C)(C)C)C=C1)OC | C13H17ClN2O4
